US06133287
Lithium aluminum hydride (10.4 mL, 1M in THF, 10.4 mmol) was added to a solution of 5-trifluoromethoxyisatin (0.8 g, 3.45 mmol) in THF at room temperature and the mixture was refluxed overnight. The reaction mixture was cooled, and Na2SO4 10H2O was added very carefully portionwise, followed by ethyl acetate. The reaction mixture was then filtered, and the filtrate was evaporated. The residual oil was purifed by column chromatography with ethyl acetate in hexanes (2:98) to yield 5-trifluoromethoxy-1H-indole (0.162 g, 23%).

reactant | Lithium aluminum hydride | 10.4 mmol, 1M, 10.4 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-trifluoromethoxyisatin | 3.45 mmol, 0.8 g | FC(OC=1C=C2C(C(NC2=CC1)=O)=O)(F)F | C9H4F3NO3
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 5-trifluoromethoxy-1H-indole | 0.162 g, 23% | FC(OC=1C=C2C=CNC2=CC1)(F)F | C9H6F3NO
